US03962247
To the mixture of 12.8 g. of N-ethoxycarbonylpiperazine, 13 ml. of water and 7.1 ml. of 35 % hydrochloric acid was added dropwise 10 g. of 4-methoxybenzaldehyde in 40 ml. of methanol at 5° to 10°C. over a period of 5 minutes, and then 3.96 g. of sodium cyanide in 10 ml. of water was added thereto dropwise with stirring at the same temperature over a period of about 30 minutes. The resulting mixture was stirred at 40°C. for 2 hours, and a completion of the reaction was confirmed by means of Thin-Layer chromatography. Solvent was evaporated, and the resultant was dissolved in benzene, washed with diluted hydrochloric acid and water, and then dried over sodium sulfate. Benzene was evaporated to give 19.5 g. of N-(α-cyano-4-methoxybenzyl)-N'-ethoxycarbonylpiperazine as an oily substance. The oil was dissolved in benzene, and dry hydrochloric acid gas was saturated therein, and then separated crystals were collected by filtration, recrystallized from acetone to give N-(α-cyano-4-methoxybenzyl)-N'-ethoxycarbonylpiperazine hydrochloride having a melting point of 170°C.

reactant | N-ethoxycarbonylpiperazine | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | hydrochloric acid | Cl | ClH
reactant | 4-methoxybenzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | N-(α-cyano-4-methoxybenzyl)-N'-ethoxycarbonylpiperazine | C(#N)C(C1=CC=C(C=C1)OC)N1CCN(CC1)C(=O)OCC | C16H21N3O3
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | N-(α-cyano-4-methoxybenzyl)-N'-ethoxycarbonylpiperazine hydrochloride | Cl.C(#N)C(C1=CC=C(C=C1)OC)N1CCN(CC1)C(=O)OCC | InChI=1S/C16H21N3O3.ClH/c1-3-22-16(20)19-10-8-18(9-11-19)15(12-17)13-4-6-14(21-2)7-5-13;/h4-7,15H,3,8-11H2,1-2H3;1H
